US06191146B1
Preparation of N,N′-bis(picolinoyl)-1,2-phenylenediamine
To a stirred solution of 1,2-phenylenediamine (111 mg, 1.00 mmol) in DMF (10 mL) was sequentially added iPr2NEt (1.75 mL, 10.0 mmol), HOBt (406 mg, 3.00 mmol), picolinic acid (370 mg, 3.00 mmol), and BOP reagent (1.34 g, 3.00 mmol). After 18 h at room temperature, the reaction mixture was added to a rapidly-stirred mixture of EtOAc (50 mL), H2O (50 mL), and sat'd NaCl (50 mL). After stirring for ca 1 h, the phases were separated and the aqueous layer was extracted with EtOAc (50 mL). The combined organic layers were dried over MgSO4, filtered, and concentrated in vacuo to a brown oil. Purification by flash chromatography (silica gel, EtOAc) afforded 302 mg (92%) of the desired product as a white solid. MS (ES+) m/z 319.0 [M+H]+.

reactant | 1,2-phenylenediamine | 1.00 mmol, 111 mg | C1(=C(C=CC=C1)N)N | C6H8N2
reactant | iPr2NEt | 10.0 mmol, 1.75 mL | CCN(C(C)C)C(C)C | C8H19N
reactant | HOBt | 3.00 mmol, 406 mg | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | picolinic acid | 3.00 mmol, 370 mg | N1=C(C=CC=C1)C(=O)O | C6H5NO2
reactant | BOP reagent | 3.00 mmol, 1.34 g | CN(C)[P+](N(C)C)(N(C)C)ON1C2=C(C=CC=C2)N=N1.F[P-](F)(F)(F)(F)F
reactant | NaCl | 50 mL | [Na+].[Cl-]
solvent | DMF | 10 mL | CN(C)C=O | C3H7NO
solvent | H2O | 50 mL | O | H2O
solvent | EtOAc | 50 mL | CCOC(=O)C | C4H8O2
product | N,N′-bis(picolinoyl)-1,2-phenylenediamine | 302 mg, 92% | N1=C(C=CC=C1)C(=O)NC1=C(C=CC=C1)NC(C1=NC=CC=C1)=O | C18H14N4O2
